US07345067B2
A solution of (4-amino-2-methyl-phenoxy)-acetic acid ethyl ester (10.46 g, 50 mmol) in THF (150 ml) was treated with of di-tert-butyl dicarbonate (11.69 g, 52.5 mmol) and heated for 2 h at 80° C. The solution was evaporated and extracted with aqueous 10% KHSO4/Et2O (3×). The organic phase was washed with aqueous 10% NaCl, dried over Na2SO4, evaporated and purified by flash chromatography with a gradient of n-heptane:EtOAc 9:1 to 7:1 to yield 11.02 g (71%) of (4-tert-butoxycarbonylamino-2-methyl-phenoxy)-acetic acid ethyl ester as a light yellow crystalline residue, MS: 308 (M-H)−, MP: 78-81° C., dec.

reactant | (4-amino-2-methyl-phenoxy)-acetic acid ethyl ester | 50 mmol, 10.46 g | C(C)OC(COC1=C(C=C(C=C1)N)C)=O | C11H15NO3
reactant | di-tert-butyl dicarbonate | 52.5 mmol, 11.69 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (4-tert-butoxycarbonylamino-2-methyl-phenoxy)-acetic acid ethyl ester | 11.02 g, 71% | C(C)OC(COC1=C(C=C(C=C1)NC(=O)OC(C)(C)C)C)=O | C16H23NO5
